US08633207B2
To 2-amino-3-bromobenzoic acid (0.5 g, 2.3 mmol) in DMF (5 mL) at rt were added hydroxybenzatriazole (0.46 g, 3.0 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.53 g, 2.8 mmol), ammonium chloride (0.5 g, 9.7 mmol), and diisopropylethylamine (1.7 ml, 9.7 mmol). The mixture was purged with N2 and stirred for 6 h. The mixture was poured into water and extracted with EtOAc (3×50 mL). The combined extracts were washed with brine (2×20 mL), dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was treated with DCM (10 mL) resulting in a precipitate which was collected by filtration and dried to afford 2-amino-3-bromobenzamide as a pale pink solid (0.42 g, 84%). LCMS (ESI) m/z 215/217 (M+H)+

reactant | 2-amino-3-bromobenzoic acid | 2.3 mmol, 0.5 g | NC1=C(C(=O)O)C=CC=C1Br | C7H6BrNO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 2.8 mmol, 0.53 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | ammonium chloride | 9.7 mmol, 0.5 g | [Cl-].[NH4+]
reactant | diisopropylethylamine | 9.7 mmol, 1.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-amino-3-bromobenzamide | 0.42 g, 84% | NC1=C(C(=O)N)C=CC=C1Br | C7H7BrN2O
